US04487936
10.8 g. (0.033 moles) of 2-[(Methoxycarbonyl) amino]-1H-benzimidazole-5-sulfonic acid chloride hydrochloride are suspended in 35 ml. of water, 33 g. of SnCl2 are added and the mixture is stirred at 50° C. for 30 minutes. A clear solution is obtained and then the precipitation of a crystalline substance can be observed. The mixture is cooled to room temperature, filtered and the precipitate is washed with a small portion of ice water. 2-[(Methoxycarbonyl)amino]-1H-benzimidazole-5-thiol obtained is further treated as described in Example 6 to yield 5 g. of the title compound, melting at 210° C.

reactant | 2-[(Methoxycarbonyl) amino]-1H-benzimidazole-5-sulfonic acid chloride hydrochloride | 0.033 moles | Cl.COC(=O)NC1=NC2=C(N1)C=CC(=C2)S(=O)(=O)Cl
reactant | SnCl2 | Cl[Sn]Cl
solvent | water | O | H2O
product | 2-[(Methoxycarbonyl)amino]-1H-benzimidazole-5-thiol | COC(=O)NC1=NC2=C(N1)C=CC(=C2)S | C9H9N3O2S
